US08030322B2
Preparation 45: 1-(cyanomethyl)-6-fluoro-2,3-dihydro-1H-indene-1-carbonitrile (Prep45)
To a solution of (E)-ethyl 2-cyano-2-(6-fluoro-2,3-dihydro-1H-inden-1-ylidene)acetate (Prep44, 7.5 g, 0.03 mol) in ethanol (100 ml), a solution of KCN (4.65 g, 0.08 mol) in water (30 ml) was added. The mixture was warmed to 65° C., and stirred for 7 h.

reactant | (E)-ethyl 2-cyano-2-(6-fluoro-2,3-dihydro-1H-inden-1-ylidene)acetate | 0.03 mol, 7.5 g | C(#N)\C(\C(=O)OCC)=C/1\CCC2=CC=C(C=C12)F | C14H12FNO2
reactant | KCN | 0.08 mol, 4.65 g | [C-]#N.[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 1-(cyanomethyl)-6-fluoro-2,3-dihydro-1H-indene-1-carbonitrile | C(#N)CC1(CCC2=CC=C(C=C12)F)C#N | C12H9FN2
